US05834463
1-Benzyl-4-methyl-3-((E)-3-phenyl-2-propen-1-yl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one
Using 1-benzyl-4-methyl-3((E)-3-phenyl-2-propen-1-yl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one, the titled compound was synthesized by substantially the same procedure as in Working Example 24 in a yield of 77%, m.p. 119°-120° C. (diethyl ether).

reactant | 1-benzyl-4-methyl-3((E)-3-phenyl-2-propen-1-yl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | C(C1=CC=CC=C1)N1C(C(C(=NC2=C1C=CC=C2)C)C\C=C\C2=CC=CC=C2)=O | C26H24N2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Benzyl-4-methyl-3-((E)-3-phenyl-2-propen-1-yl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | yield of 77% | C(C1=CC=CC=C1)N1C(C(C(NC2=C1C=CC=C2)C)C\C=C\C2=CC=CC=C2)=O | C26H26N2O
